US04324793
As in Example 1, 61 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride is reacted with 15 g of 2 -propylmercaptan. There is obtained 63 g (91% of theory) of (4-nitro-2-trichloromethylphenyl)-isopropyl disulfide.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 2 -propylmercaptan | 15 g | CC(C)S | C3H8S
product | (4-nitro-2-trichloromethylphenyl)-isopropyl disulfide | 63 g, 91% | [N+](=O)([O-])C1=CC(=C(C=C1)SSC(C)C)C(Cl)(Cl)Cl | C10H10Cl3NO2S2
